US05380721
To a suspension of 2-(4-bromobenzoyl)benzoic acid (15.0 g, 49.2 mmol) in toluene (75 mL) at room temperature was added methylhydrazine (2.88 mL, 54.1 mmol). The reaction mixture was heated to reflux while collecting water in a Dean Stark trap for 3 hours, additional methylhydrazine (2.0 mL) was added and refluxing was continued for 15 minutes. The reaction mixture was cooled to room temperature and the product was collected by filtration and dried in vacuo to afford 13.4 g (87%) of 2-methyl-4-(4-bromophenyl)-1-(2H)-phthalazinone, m.p. 168°-170 ° C.

reactant | 2-(4-bromobenzoyl)benzoic acid | 49.2 mmol, 15.0 g | BrC1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1 | C14H9BrO3
reactant | methylhydrazine | 54.1 mmol, 2.88 mL | CNN | CH6N2
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-4-(4-bromophenyl)-1-(2H)-phthalazinone | 13.4 g, 87% | CN1C(C2=CC=CC=C2C(=N1)C1=CC=C(C=C1)Br)=O | C15H11BrN2O
